US08304434B2
Step 6: 1-[2-(methylsulfonyl)-4-(trifluoromethoxy)benzoyl]-4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine
To a 10 ml vial was added 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine (70.8 mg, 0.211 mmol), 2-(methylsulfonyl)-4-(trifluoromethoxy)benzoic acid (50 mg, 0.176 mmol), Bop reagent (93 mg, 0.211 mmol), diisopropylethyl amine (0.062 ml, 0.352 mmol) and 2 ml dimethylformamide. The resulting solution was stirred at room temperature for 10 minutes. The reaction mixture was diluted with 1 ml dimethyl sulfoxide, 1 ml water and 0.03 ml of trifluoroacetic acid. This mixture was loaded on a reverse phase column and purified with HPLC eluted with water/acetonitrile gradient solvent. Desired fraction was collected and lyophilized to give to give title compound as fluffy white solid.

reactant | 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine | 0.211 mmol, 70.8 mg | CC(C)(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1CCNCC1 | C15H20F3NO2S
reactant | 2-(methylsulfonyl)-4-(trifluoromethoxy)benzoic acid | 0.176 mmol, 50 mg | CS(=O)(=O)C1=C(C(=O)O)C=CC(=C1)OC(F)(F)F | C9H7F3O5S
reactant | Bop reagent | 0.211 mmol, 93 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 0.352 mmol, 0.062 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | water | 1 ml | O | H2O
solvent | trifluoroacetic acid | 0.03 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-[2-(methylsulfonyl)-4-(trifluoromethoxy)benzoyl]-4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine | CS(=O)(=O)C1=C(C(=O)N2CCC(CC2)C(C)(S(=O)(=O)C2=CC(=CC=C2)C(F)(F)F)C)C=CC(=C1)OC(F)(F)F | C24H25F6NO6S2
